US09065061B2
Step 2: Synthesis of N-[(ethylsulfanyl)phenylmethylidene]aniline
Next, 3.2 g of sodium ethoxide, 10 g of N-phenylthiobenzamide, and 60 mL of ethanol were put in a 300 mL three-neck flask, and stirred at room temperature for 1 hour. Then, 3.7 mL of iodoethane was added to this mixture, and heated and stirred at 60° C. for 6 hours to be reacted. After the reaction, ethanol was distilled off under a reduced pressure to give an oily substance. This oily substance was dissolved in dichloromethane, and washed with water and then a saturated aqueous solution of sodium hydrogen carbonate. Anhydrous magnesium sulfate was added to the resulting organic layer for drying. The resulting mixture was subjected to gravity filtration, and the filtrate was concentrated, so that N-[(ethylsulfanyl)phenylmethylidene]aniline was prepared (a brown oily substance, crude yield: 110%). The synthetic scheme of Step 2 is shown by (b-3).

reactant | sodium ethoxide | 3.2 g | [O-]CC.[Na+]
reactant | N-phenylthiobenzamide | 10 g | C1(=CC=CC=C1)NC(C1=CC=CC=C1)=S | C13H11NS
reactant | ethanol | 60 mL | C(C)O | C2H6O
reactant | iodoethane | 3.7 mL | ICC | C2H5I
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[(ethylsulfanyl)phenylmethylidene]aniline | C(C)SC(=NC1=CC=CC=C1)C1=CC=CC=C1 | C15H15NS
